US05574055
(R)-trans-5-Methoxymethyl-3-[4-(4-cyano-cyclohexyl)-phenyl]-oxazolidin-2-one
A suspension of 500 mg (1.84 mmol) of trans-[4-(4-cyano-cyclohexyl)-phenyl]-ethoxycarbamic acid, 365 mg (2.8 mmol) of (S)-4-methoxymethyl-1,3-dioxolan-2-one and 185 mg of potassium carbonate was stirred at 160° for 16 hours. The reaction mixture was chromatographed over silica gel with ethyl acetate/hexane 1:1 and the yellow crystals obtained were recrystallized from ethyl acetate. 165 mg (29%) were obtained as white crystals with m.p. 174°.

reactant | trans-[4-(4-cyano-cyclohexyl)-phenyl]-ethoxycarbamic acid | 1.84 mmol, 500 mg | C(#N)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N(C(O)=O)OCC | C16H20N2O3
reactant | (S)-4-methoxymethyl-1,3-dioxolan-2-one | 2.8 mmol, 365 mg | COC[C@@H]1OC(OC1)=O | C5H8O4
reactant | potassium carbonate | 185 mg | C([O-])([O-])=O.[K+].[K+]
product | (R)-trans-5-Methoxymethyl-3-[4-(4-cyano-cyclohexyl)-phenyl]-oxazolidin-2-one | COC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C#N | C18H22N2O3
